US09382234B2
To a suspension of 2,6-dimethyl-3-nitropyridin-4(1H)-one (0.44 g, 2.62 mmol) in acetic acid (13 mL) was added NIS (0.765 g, 3.40 mmol). The mixture was heated at 105° C. for 2 h, at which time it was poured into ice water (100 mL). The mixture was stirred for 15 min and cooled in a freezer for 15 min. To the cooled mixture was added 0.1M Na2S2O3 (1-2 mL) with swirling The solids were filtered, washed with water, air dried for 5 min, and further dried in a vacuum oven for 4 h to give 3-iodo-2,6-dimethyl-5-nitropyridin-4(1H)-one (596 mg, 1.824 mmol, 69.7% yield). 1H NMR (400 MHz, DMSO-d6) δ 2.28-2.31 (m, 3 H) 12.32 (br. s., 1 H). MS(ES) [M+H]+ 294.9.

reactant | 2,6-dimethyl-3-nitropyridin-4(1H)-one | 2.62 mmol, 0.44 g | CC=1NC(=CC(C1[N+](=O)[O-])=O)C | C7H8N2O3
reactant | NIS | 3.40 mmol, 0.765 g | C1CC(=O)N(C1=O)I | C4H4INO2
reactant | Na2S2O3 | 0.1M, 1-2 mL | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | acetic acid | 13 mL | C(C)(=O)O | C2H4O2
product | 3-iodo-2,6-dimethyl-5-nitropyridin-4(1H)-one | 1.824 mmol, 596 mg, 69.7% yield | IC1=C(NC(=C(C1=O)[N+](=O)[O-])C)C | C7H7IN2O3
